US05773459
2-Amino-3-chloro-4-isopropylsulfonylthiophene (260 mg) was stirred for 4 hours with 4-t-butylphenylisocyanate (119 mg) in 1 mL of pyridine at 60 ∞C. The pyridine was evaporated to dryness and the residue taken up in a mixture of ethyl acetate and 1N hydrochloric acid. The ethyl acetate layer was washed with water, saturated sodium bicarbonate and brine, and dried over anhydrous magnesium sulfate. Concentration and crystallization of the residue from ethanol and water gave 100 mg of N-[3-chloro-4-(isopropylsulfonyl)thien-2-yl]-N'-(4-t-butyl-phenyl)urea, an off-white solid.

reactant | 2-Amino-3-chloro-4-isopropylsulfonylthiophene | 260 mg | NC=1SC=C(C1Cl)S(=O)(=O)C(C)C | C7H10ClNO2S2
reactant | 4-t-butylphenylisocyanate | 119 mg | C(C)(C)(C)C1=CC=C(C=C1)N=C=O | C11H13NO
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | N-[3-chloro-4-(isopropylsulfonyl)thien-2-yl]-N'-(4-t-butyl-phenyl)urea | 100 mg | ClC1=C(SC=C1S(=O)(=O)C(C)C)NC(=O)NC1=CC=C(C=C1)C(C)(C)C | C18H23ClN2O3S2
